US07414061B2
3-(4-Fluoro-phenyl)-5-methyl-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-isoxazole
As described for Example 46, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole (97 mg, 0.4 mmol) using 1-fluoro-4-nitrobenzene instead of 4-fluoroacetophenone was converted to the title compound (105 mg, 72%) which was obtained as a light yellow solid. MS: m/e=365.1 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole | 0.4 mmol, 97 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C | C13H10FN3O
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 3-(4-Fluoro-phenyl)-5-methyl-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-isoxazole | 105 mg, 72% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C19H13FN4O3
